US04518596
8-(4-Methylbenzylthio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(4-methylbenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 177°-179° C.) and piperazine.

reactant | 2-chloro-8-(4-methylbenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=CC=C(C=C2)C)N2CCOCC2 | C18H18ClN5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(4-Methylbenzylthio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | CC1=CC=C(CSC2=NC=NC3=C2N=C(N=C3N3CCOCC3)N3CCNCC3)C=C1 | C22H27N7OS
